US07863446B2
Step 1: Preparation of 2,4-dimethoxy-6-piperazin-1-ylpyrimidine
piperazine (1.23 g, 14.32 mmol) was treated with 6-chloro-2,4-dimethoxy pyrimidine (0.5 g, 2.86 mmol) in acetonitrile (5 mL) and the reaction mixture was stirred at room temperature for 6 hours. Subsequently the reaction mixture was poured onto ice-cold water (25 ml) and extracted with ethyl acetate (25 ml). The organic layer was washed with aqueous sodium bicarbonate solution and evaporated to furnish the required compound.

reactant | piperazine | 14.32 mmol, 1.23 g | N1CCNCC1 | C4H10N2
reactant | 6-chloro-2,4-dimethoxy pyrimidine | 2.86 mmol, 0.5 g | ClC1=CC(=NC(=N1)OC)OC | C6H7ClN2O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2,4-dimethoxy-6-piperazin-1-ylpyrimidine | COC1=NC(=CC(=N1)OC)N1CCNCC1 | C10H16N4O2
